US08541588B2
4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-2,5-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
A suspension of N-(2,4-dimethoxybenzyl)-2,4,5-trifluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 647, 10 g, 22.45 mmol), 2-(2-aminopyridin-4-yl)-4-chlorophenol (Preparation 258, 5 g, 22.67 mmol) and potassium carbonate (3.72 g, 26.94 mmol) in dimethyl sulfoxide (150 mL) was stirred at room temperature for 2 hours. The reaction was partitioned between ethyl acetate (150 mL) and saturated aqueous sodium chloride solution (150 mL). The organic layer was collected and concentrated in vacuo to afford an orange residue. This was dissolved in dichloromethane (145 mL) and trifluoroacetic acid (8.48 mL) was added. The reaction was stirred at room temperature for 24 hours before concentrating in vacuo to afford a pink residue. This was taken up in ethyl acetate (200 mL) to form a white slurry that was washed with saturated sodium bicarbonate solution (200 mL). Filtration yielded a white solid that was dried in vacuo, slurried in water and hydrochloric acid (1 N aqueous solution, 1.05 eq) and extracted with ethyl acetate. The organic layer was collected and concentrated in vacuo to yield the title compound.

reactant | N-(2,4-dimethoxybenzyl)-2,4,5-trifluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 22.45 mmol, 10 g | COC1=C(CN(S(=O)(=O)C2=C(C=C(C(=C2)F)F)F)C2=NC=NS2)C=CC(=C1)OC | C17H14F3N3O4S2
reactant | 2-(2-aminopyridin-4-yl)-4-chlorophenol | 22.67 mmol, 5 g | NC1=NC=CC(=C1)C1=C(C=CC(=C1)Cl)O | C11H9ClN2O
reactant | potassium carbonate | 26.94 mmol, 3.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoroacetic acid | 8.48 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 1 N, 1.05 eq | Cl | ClH
solvent | dimethyl sulfoxide | 150 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 145 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-2,5-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | NC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2F)S(=O)(=O)NC2=NC=NS2)F)C=CC(=C1)Cl | C19H12ClF2N5O3S2
